US05234936
The preparation of N-[[2'-(1H-tetrazol-5 -yl)[1,1'-biphenyl]-4-yl]methyl]-N-[2-(trifluoromethyl)-5,6,7,8-tetrahydro-quinazolin-4-yl]-glycine methyl ester
To a 0° C. solution of 0.01 mmol of 5,6,7,8-tetrahydro-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-2-(trifluoromethyl)-4-quinazolinamine in 10 mL of anhydrous DMF was added 0.01 mmol of NaH. The resulting solution was stirred at 0° C. for 30 minutes at which time 0.01 mmol of triphenylmethylchloride was added. The reaction mixture was stirred at room temperature for 18 hours and 0.01 mmol of methyl bromoacetate was added. After 24 hours the reaction mixture was diluted with water and extracted with ethyl acetate (3×10 mL). The organic phase was extracted with brine, dried over anhydrous magnesium sulfate, filtered and evaporated to yield a residue which was treated with 2N HCl in dioxane. The solvents were evaporated and the resulting residue was purified on silica to yield the title compound.

reactant | 5,6,7,8-tetrahydro-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-2-(trifluoromethyl)-4-quinazolinamine | 0.01 mmol | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=NC(=NC=2CCCCC12)C(F)(F)F | C23H20F3N7
reactant | NaH | 0.01 mmol | [H-].[Na+]
reactant | triphenylmethylchloride | 0.01 mmol | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | methyl bromoacetate | 0.01 mmol | BrCC(=O)OC | C3H5BrO2
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[[2'-(1H-tetrazol-5 -yl)[1,1'-biphenyl]-4-yl]methyl]-N-[2-(trifluoromethyl)-5,6,7,8-tetrahydro-quinazolin-4-yl]-glycine methyl ester | COC(CN(C1=NC(=NC=2CCCCC12)C(F)(F)F)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O | C26H24F3N7O2
